US04895872
3,5-Dioxohexylcyanide
The magnesium complex of t-butyl acetoacetate (135 gm; 635 mmole) is suspended in 250 ml of anhydrous ether in a three-neck one liter round bottom flask and beta-cyano propionyl chloride (78.05 gm: 664 mmole) added dropwise over fifteen minutes while the mixture is stirred from overhead. The dropping funnel is removed and the mixture refluxed for thirty minutes. The mixture is cooled and 250 ml of 2N aqueous sulfuric acid is slowly added. The mixture is transferred to a one liter separatory funnel and the layers separated. The aqueous layer is extracted with ether (2×150 ml) and the combined ether extracts washed with water (4×100 ml). The ether is evaporated and to the residual red oil is added 800 mg of toluene sulfonic acid monohydrate. The mixture is heated in an oil bath (with reflux condenser) to 175 degrees until evolution of gas has ceased. The mixture is cooled and taken up in 500 ml of ether. The ether is extracted with ice-cold 2M aqueous sodium hydroxide (175, 90, 50, and 35 ml). The extracts were run from the separatory funnel directly into 250 ml of ice-cold 1.8M aqueous sulfuric acid. The acidic suspension is extracted with methylene chloride (3×150 ml) and the combined organic extracts washed with 5% aqueous sodium bicarbonate (2×100 ml) and brine (100 ml). The residue after evaporation of the methylene chloride may be purified by silica gel flash column chromatography using ethyl acetate:hexane 1:4 as eluant.

reactant | t-butyl acetoacetate | 635 mmole, 135 gm | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | beta-cyano propionyl chloride | 664 mmole, 78.05 gm | C(#N)CCC(=O)Cl | C4H4ClNO
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3,5-Dioxohexylcyanide | O=C(CCC#N)CC(C)=O | C7H9NO2
